US04230709
2-n-Butyl-tetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3-(2H)-dione
DL-Proline (2.5 g 0.0217 mole) was dissolved in water (20 ml) containing 2 N NaOH (10.9 ml, 0.0219 equiv) cooled to 0° C. and n-butyl isocyanate (3.27 g 0.33 mole) added dropwise to the stirred solution during 2 hours. The mixture was left at room-temperature overnight, filtered and washed with ether. The aqueous solution was acidified with concentrated hydrochloric acid (30 ml) and heated on the steam-bath for 30 minutes, cooled and continuously extracted with ether for 2 hours. Removal of the solvent gave a clear oil which was distilled under reduced pressure in a Kugelrohr apparatus to yield the product as a colourless oil, b.p. 90° C. at 0.02 mm. Yield 3.5 g=83%.

reactant | DL-Proline | 0.0217 mole, 2.5 g | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | NaOH | 2 N, 10.9 ml, 0.0219 equiv | [OH-].[Na+]
reactant | n-butyl isocyanate | 0.33 mole, 3.27 g | C(CCC)N=C=O | C5H9NO
solvent | water | 20 ml | O | H2O
product | 2-n-Butyl-tetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3-(2H)-dione | C(CCC)N1C(N2C(C1=O)CCC2)=O | C10H16N2O2
